US07851634B2
d) N-(4-Bromopyridin-2-ylmethyl)formamide
20.00 g of C-(4-bromopyridin-2-yl)methylamine are taken up in 60 ml of formic acid and the solution is heated to reflux over 3 hours. The reaction solution is cooled to room temperature and concentrated by evaporation, and the residue is taken up in saturated aqueous sodium hydrogencarbonate solution (300 ml) and the aqueous solution extracted with dichloromethane (3×300 ml). The combined organic phases are washed with water (300 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60 F).

reactant | C-(4-bromopyridin-2-yl)methylamine | 20.00 g | BrC1=CC(=NC=C1)CN | C6H7BrN2
reactant | formic acid | 60 ml | C(=O)O | CH2O2
product | N-(4-Bromopyridin-2-ylmethyl)formamide | BrC1=CC(=NC=C1)CNC=O | C7H7BrN2O
